US08809304B2
Reference Example compound 3-1 (836 mg), (2,2-dimethyl-5-ethynyl-1,3-dioxan-5-yl)carbamic acid t-butyl ester (482 mg) synthesized by a known method (for example, Tetrahedron vol. 57 (2001) 6531-6538), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (54 mg), bis(acetonitrile)palladium(II) dichloride (10 mg), cesium carbonate (919 mg) were stirred in a mixed solvent of acetonitrile (15 ml) and tetrahydrofuran (2 ml) at 70° C. for 4 hr. Water was added to the reaction mixture; and the mixture was extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give [2,2-dimethyl-5-(3-cyano-4-heptyloxyphenyl)ethynyl-1,3-dioxan-5-yl]carbamic acid t-butyl ester as a brown oil (493 mg). The intermediate was dissolved in ethyl acetate (5 ml), Lindlar catalyst (80 mg) was added, and the mixture was stirred overnight under a hydrogen atmosphere. The reaction mixture was filtered and concentrated and the residue was dissolved in ethanol (4 ml), 10% palladium carbon (ethylenediamine poisoning, 40 mg) was added, and the mixture was stirred at room temperature for 2.5 hr under a hydrogen atmosphere. The solution was filtrated, and the filtrate was concentrated to give the object product (182 mg).

reactant | (2,2-dimethyl-5-ethynyl-1,3-dioxan-5-yl)carbamic acid t-butyl ester | 482 mg | C(C)(C)(C)OC(NC1(COC(OC1)(C)C)C#C)=O | C13H21NO4
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 54 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 919 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | bis(acetonitrile)palladium(II) dichloride | 10 mg | CC#N.CC#N.Cl[Pd]Cl
solvent | Water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | [2,2-dimethyl-5-(3-cyano-4-heptyloxyphenyl)ethynyl-1,3-dioxan-5-yl]carbamic acid t-butyl ester | 493 mg | C(C)(C)(C)OC(NC1(COC(OC1)(C)C)C#CC1=CC(=C(C=C1)OCCCCCCC)C#N)=O | C27H38N2O5
